US07544835B2
7.2 g of (4S)-3-[(3R,2S)-3-(4-Ethoxyphenyl)-3-hydroxy-2-isopropoxypropanoyl]-4-benzyl-1,3-oxazolan-2-one was dissolved in 200 ml of trifluoroacetic acid, 40 ml of triethylsilane was added, and the mixture was stirred for 24 hours. The solvent was evaporated, and the residue was purified by silica gel column chromatography (elution solvent: hexane-ethyl acetate), to give 7.0 g of (4S)-3-[(2S)-3-(4-ethoxyphenyl)-2-isopropoxypropanoyl]-4-benzyl-1,3-oxazolan-2-one as a colorless solid.

reactant | (4S)-3-[(3R,2S)-3-(4-Ethoxyphenyl)-3-hydroxy-2-isopropoxypropanoyl]-4-benzyl-1,3-oxazolan-2-one | 7.2 g | C(C)OC1=CC=C(C=C1)[C@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OC(C)C)O | C24H29NO6
reactant | triethylsilane | 40 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (4S)-3-[(2S)-3-(4-ethoxyphenyl)-2-isopropoxypropanoyl]-4-benzyl-1,3-oxazolan-2-one | 7.0 g | C(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OC(C)C | C24H29NO5
